US05756528
Step D: N-t-Butoxycarbonyl-4(R)-t-butyldimethylsilyloxy-2(S)-hydroxymethylpyrrolidine
A solution of N-t-butoxycarbonyl-4-(R)-t-butyldimethylsilyloxy proline methyl ester (86.65 g, 241 mmol), in THF (150 ml), was added over 90 minutes to a solution of lithium aluminum hydride (247 ml of a 1M solution in THF, 247 mmol), under argon, so that the temperature did not exceed 12° C. Stirring was continued for 50 mins and then EtOAc (500 ml) was added cautiously, followed by sodium sulphate decahydrate (34 g), and the resulting mixture stirred for 16 hrs at room temperature. Anhydrous sodium sulphate (34 g) was added and the mixture stirred an additional 30 min and then filtered. The solids were washed with EtOAc (800 ml), the filtrates combined and the solvent evaporated in vacuo. The title compound was obtained as a colourless oil and used in the next step without further purification.

reactant | N-t-butoxycarbonyl-4-(R)-t-butyldimethylsilyloxy proline methyl ester | 241 mmol, 86.65 g | COC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O | C17H33NO5Si
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate decahydrate | 34 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium sulphate | 34 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | N-t-Butoxycarbonyl-4(R)-t-butyldimethylsilyloxy-2(S)-hydroxymethylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C16H33NO4Si
